US06001839
A mixture of 4-chloro-7-isopropyl-5-(4-nitrophenyl)pyrrolo[2,3-d]pyrimidine (1.0 g), iron powder (1.76 g), ammonium chloride (86 mg), water (8 ml) and industrial methylated spirit (40 ml) was boiled under reflux for one hour. The mixture was filtered and the solvent evaporated. The residue was taken up in ethyl acetate and washed with water. The ethyl acetate extract was dried, filtered and evaporated to give 5-(4-aminophenyl)-4-chloro-7-isopropylpyrrolo[2,3-d]pyrimidine.

reactant | 4-chloro-7-isopropyl-5-(4-nitrophenyl)pyrrolo[2,3-d]pyrimidine | 1.0 g | ClC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)[N+](=O)[O-])C(C)C | C15H13ClN4O2
reactant | ammonium chloride | 86 mg | [Cl-].[NH4+]
catalyst | iron | 1.76 g | [Fe] | Fe
solvent | water | 8 ml | O | H2O
product | 5-(4-aminophenyl)-4-chloro-7-isopropylpyrrolo[2,3-d]pyrimidine | NC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)Cl)C(C)C | C15H15ClN4
